US07491735B2
4-Methylthiophene-3-carboxylic acid (158 mg, 1.00 mmol) was reduced with BH3-THF (1.0M in THF, 3.0 mL, 3.0 mmol) in THF (2 mL) at room temperature and treated with MeOH to give (4-methoxy-thiophen-3-yl)-methanol as an oil (144 mg, 100%) after work-up.

reactant | 4-Methylthiophene-3-carboxylic acid | 1.00 mmol, 158 mg | CC=1C(=CSC1)C(=O)O | C6H6O2S
reactant | BH3-THF | 3.0 mmol, 1.0M, 3.0 mL | B.C1CCOC1
reactant | MeOH | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (4-methoxy-thiophen-3-yl)-methanol | 144 mg, 100% | COC=1C(=CSC1)CO | C6H8O2S
